US07208633B2
bis(4-dimethylaminophenyl)phosphine oxide
Under an argon atmosphere, a solution of magnesium (3.0 g, 1.0 equivalent) and a small amount of iodine in THF (30 mL) was stirred at room temperature for 1 hr. 4-Bromo-N,N-dimethylaniline (25 g, 0.125 moL) was added at 45° C., and the mixture was stirred at 5° C. for 1 hr. Then, diethyl phosphite (8.63 g, 0.50 equivalent) was added at 5° C., and the mixture was stirred at 5° C. for 1 hr. Water (30 mL) was added at 3° C., and then toluene (60 mL) and 6M-HCl (30 mL) were added. The mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the aqueous layer was neutralized with NaOH and extracted with THF (30 mL). The combined organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from diisopropyl ether to give the title compound (9.53 g, slightly brown white crystals). yield 52.9%. melting point: 152.1° C.

reactant | magnesium | 3.0 g, 1.0 equivalent | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-Bromo-N,N-dimethylaniline | 25 g | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | diethyl phosphite | 8.63 g, 0.50 equivalent | P(OCC)(OCC)[O-]
reactant | HCl | 30 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 30 mL | O | H2O
product | bis(4-dimethylaminophenyl)phosphine oxide | yield 52.9% | CN(C1=CC=C(C=C1)P(C1=CC=C(C=C1)N(C)C)=O)C | C16H21N2OP
